US04788186
6-ethylthio-3-phenyl-1,2,4-triazolo[3,4-a]phthalazine
50% Sodium hydride in mineral oil (1 g) is suspended in anhydrous dimethylformamide (50 ml) and stirred for 10 minutes. Then a solution of ethanethiol (1.5 ml) in anhydrous dimethylformamide (10 ml) is slowly added thereto and the resulting mixture is stirred at room temperature for 30 minutes. Finally 6-chloro-3-phenyl-1,2,4-triazolo[3,4-a]phthalazine (5.9 g) is added and the reaction mixture is heated at 50° C. for five hours. The solvent is evaporated off under vacuum and the obtained residue is washed a few times with water and then is crystallized from isopropanol yielding 4.7 g of the compound of the title. M.p. 190°-91° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethanethiol | 1.5 ml | C(C)S | C2H6S
reactant | 6-chloro-3-phenyl-1,2,4-triazolo[3,4-a]phthalazine | 5.9 g | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=CC=C2 | C15H9ClN4
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-ethylthio-3-phenyl-1,2,4-triazolo[3,4-a]phthalazine | C(C)SC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=CC=C2 | C17H14N4S
